US08859732B2
3,4,5-Tri(octadecyloxy)benzylchloride (93.6 g, wet, <90.8 mmol), 2-hydroxy-4-methoxybenzaldehyde (15.2 g, 0.10 mol) and potassium carbonate (31.4 g, 0.23 mol) were suspended in DMF (830 ml), and the suspension was stirred at 80° C. overnight. The reaction mixture was dissolved in chloroform (1600 ml), and the mixture was washed 3 times with 1N hydrochloric acid (800 ml), once with 5% aqueous sodium hydrogen carbonate solution (800 ml), and once with 20% brine (800 ml). The solvent was evaporated, and the residue was precipitated with methanol (800 ml) and washed with acetonitrile (800 ml) to give 4-methoxy-2-[3′,4′,5′-tris(octadecyloxy)benzyloxy]benzaldehyde (93.5 g, 89.2 mmol, 98%).

reactant | 3,4,5-Tri(octadecyloxy)benzylchloride | <90.8 mmol, 93.6 g | C(CCCCCCCCCCCCCCCCC)OC=1C=C(CCl)C=C(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C61H115ClO3
reactant | 2-hydroxy-4-methoxybenzaldehyde | 0.10 mol, 15.2 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | potassium carbonate | 0.23 mol, 31.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 830 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 1600 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-methoxy-2-[3′,4′,5′-tris(octadecyloxy)benzyloxy]benzaldehyde | 89.2 mmol, 93.5 g, 98% | COC1=CC(=C(C=O)C=C1)OCC1=CC(=C(C(=C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C69H122O6
